US08865738B2
4.2. 6-Bromo-5′-fluoro-[2,3′]bipyridyl
Added to a solution of 2.00 g (8.44 mmol) of 2,6-dibromo-pyridine in 80 ml of a 4/1 mixture of toluene and ethanol, are 1.18 g (8.44 mmol) of 5-fluoropyridine-3-boronic acid, 0.48 g (0.42 mmol) of Pd(PPh3)4 and 25 ml of a 1M aqueous solution of sodium carbonate. The mixture is stirred at 90° C. for 2 hours.

reactant | 2,6-dibromo-pyridine | 8.44 mmol, 2.00 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 5-fluoropyridine-3-boronic acid | 8.44 mmol, 1.18 g | FC=1C=C(C=NC1)B(O)O | C5H5BFNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.42 mmol, 0.48 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | C(C)O | C2H6O
product | 6-Bromo-5′-fluoro-[2,3′]bipyridyl | BrC1=CC=CC(=N1)C=1C=NC=C(C1)F | C10H6BrFN2
